US05498615
(6) Preparation of 2,8-diazabicyclo[4.3.0]non-5-ene Dihydrochloride
To 30 ml of methanol saturated with hydrogen chloride gas was added 9.72 g of N,N'-di-t-butoxycarbonyl-2,8-diazabicyclo[4.3.0]non-5-ene, stirred at room temperature for 4 hours, and then evaporated under reduced pressure to obtain 5.85 g of the desired compound.

reactant | hydrogen chloride | Cl | ClH
reactant | N,N'-di-t-butoxycarbonyl-2,8-diazabicyclo[4.3.0]non-5-ene | 9.72 g | C(C)(C)(C)OC(=O)N1CC2=CCCN(C2C1)C(=O)OC(C)(C)C | C17H28N2O4
solvent | methanol | 30 ml | CO | CH4O
product | 2,8-diazabicyclo[4.3.0]non-5-ene Dihydrochloride | 5.85 g | Cl.Cl.C12NCCC=C2CNC1 | InChI=1S/C7H12N2.2ClH/c1-2-6-4-8-5-7(6)9-3-1;;/h2,7-9H,1,3-5H2;2*1H
